US04958029
5,6-Dimethoxy-N-methylisoindoline
1.0 g (2.43 mmol) of N-benzyl-5,6-dimethoxy-N-methylisoindolinium iodide was dissolved in 40 ml of a 50% methanol aqueous solution, and 300 mg of a 10% palladium carbon catalyst was added. Then, the catalytic reduction was conducted at 50° C. for 6 hours in a hydrogen gas stream. After filtering off the catalyst, methanol was distilled off under reduced pressure, and the residual solution was adjusted to strongly alkaline by an addition of a 50% sodium hydroxide aqueous solution. Then, the solution was extracted twice with methylene chloride. The extract solution was dried over anhydrous sodium sulfate, and the solvent was distilled off to obtain 200 mg of the above identified compound.

reactant | N-benzyl-5,6-dimethoxy-N-methylisoindolinium iodide | 2.43 mmol, 1.0 g | [I-].C(C1=CC=CC=C1)[N+]1(CC2=CC(=C(C=C2C1)OC)OC)C
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 5,6-Dimethoxy-N-methylisoindoline | COC=1C=C2CN(CC2=CC1OC)C | C11H15NO2
